US08420684B2
Compound 226: 1-(1H-Benzoimidazol-5-yl)-4-(cyclopentylimino)-5-(1H-indol-5-yl)-imidazolidin-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 1H-Indole-5-carbaldehyde (1 mmol) were combined in methanol (2 ml, dry). After 2 hours 2 ml of a solution of KOCN (KSCN) (2 mmol) and Pyridinehydrochloride (2 mmol) in MeOH is added was added. Finally Isocyano-cyclopentane (1 mmol) is added. The reaction was stirred at room temperature for 48 h. After evaporation of the solvent the residue was purified with chromatographic methods. Yield: 0.107 g (27%); mp: 210° C., 1H-NMR (400 MHz, DMSO-D6): 1.20-1.25 (m, 1H, CH2), 1.38-1.56 (m, 5H, CH2), 1.70-1.79 (m, 1H, CH2), 1.82-1.90 (m, 1H, CH2), 4.08-4.14 (m, 1H, CH2—CH), 5.91 (s, 1H, CH—N), 6.33-6.36 (m, 1H, Ar), 6.85 (dd, 3J=8.3 Hz, 4J=1.7 Hz, 1H, Ar), 7.24-7.33 (m, 4H, 3H Ar, 1H Benzimid), 7.52 (s, 1H, Benzimid), 7.63 (s, 1H, Benzimid), 7.86 (m, 1H, NH), 8.06 (s, 1H, Benzimid), 11.05 (s, 1H, NH), MS m/z 399.4 (M+H)+, HPLC (254 nm): rt 2.56 min (100%), calc: C, 69.33; H, 5.57; N, 21.09. found.: C, 63.34; H, 6.16; N, 19.04 corresponds to C23H22N6O+2.0H2O

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 1H-Indole-5-carbaldehyde | 1 mmol | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
reactant | KOCN | 2 mmol | O([K])C#N
reactant | Pyridinehydrochloride | 2 mmol | Cl.N1=CC=CC=C1
reactant | Isocyano-cyclopentane | 1 mmol | [N+](#[C-])C1CCCC1 | C6H9N
solvent | methanol | 2 ml | CO | CH4O
product | 1-(1H-Benzoimidazol-5-yl)-4-(cyclopentylimino)-5-(1H-indol-5-yl)-imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NC(C2C=2C=C1C=CNC1=CC2)=NC2CCCC2)=O | C23H22N6O
